US07893056B2
A solution of commercially available tetrahydro-2H-pyran-4-amine (0.122 g, 1.21 mmol) in DMF (6 mL) was cooled to 0° C. Then diisopropylethylamine (0.24 mL, 1.33 mmol) and tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (0.600 g, 1.21 mmol) were added. The resulting solution was left to reach room temperature and stir overnight. The mixture was extracted with ether and washed with water, and the resulting aqueous layer was extracted once with ether. The combined ether layers were dried (Na2SO4) and concentrated in vacuo. The resulting material was purified by silica gel chromatography with (5-60% ethyl acetate in hexanes, 1% triethylamine) to provide tris(1,1-dimethylethyl)2-[2-chloro-5-fluoro-6-(tetrahydro-2H-pyran-4-ylamino)-4-pyrimidinyl]-1,1,2-hydrazinetricarboxylate as a white solid (0.602 g, 89%). LCMS: (M+H−2Boc)+=362.1.

reactant | tetrahydro-2H-pyran-4-amine | 1.21 mmol, 0.122 g | O1CCC(CC1)N | C5H11NO
reactant | diisopropylethylamine | 1.33 mmol, 0.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 1.21 mmol, 0.600 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | tris(1,1-dimethylethyl)2-[2-chloro-5-fluoro-6-(tetrahydro-2H-pyran-4-ylamino)-4-pyrimidinyl]-1,1,2-hydrazinetricarboxylate | 0.602 g, 89% | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NC1CCOCC1)Cl)C(=O)OC(C)(C)C | C24H37ClFN5O7
